US04290960
2,5-Dimethyl-4-hydroxy-2,3-dihydrofuran-3-one is prepared by first epoxidizing hex-3-ene-2,5-diol in the liquid phase with hydrogen peroxide to give the novel compound 3,4-epoxy-hexane-2,5-diol, which at 40°-280° C. is converted, by means of a catalytic amount of an acid, to the novel compound 2,5-dimethyl-3,4-dihydroxy-tetrahydro-furan. The latter is dehydrogenated by means of oxygen over a silver catalyst or copper catalyst to give the nove compound 2,5-dimethyl-4-hydroxy-tetrahydrofuran-3-one, which is oxidized by means of bismuth oxide, in concentrated acetic acid solution, to give the desired compound 2,5-dimethyl-4-hydroxy-2,3-dihydrofuran-3-one.

reactant | 2,5-dimethyl-3,4-dihydroxy-tetrahydro-furan | CC1OC(C(C1O)O)C | C6H12O3
reactant | oxygen | O=O | O2
catalyst | silver | [Ag] | Ag
catalyst | copper | [Cu] | Cu
product | 2,5-dimethyl-4-hydroxy-tetrahydrofuran-3-one | CC1OC(C(C1=O)O)C | C6H10O3
